US09085583B2
To a solution of 4,4-difluorocyclohexanecarboxylic acid (5 g, 30.49 mmol) in DCM (40 mL) were added DIPEA (11.8 g, 91.46 mmol) and HATU (17.38 g, 45.73 mmol). The mixture was stirred for 0.5 hr. The N,O-dimethylhydroxylamine hydrochloride (3.56 g, 36.58 mmol) was added to the mixture. The mixture was stirred at 28° C. for 12 hr. Water (20 mL) was added and the mixture was extracted by CH2Cl2 (30 mL*3). The organic layer was washed with brine and dried over sodium sulfate. The organic layer was concentrated to give the crude product, the crude product was purified by column chromatography on silica gel eluted with (petroleum ether/ethyl acetate 10:1→2:1) to gave 4,4-difluoro-N-methyl cyclohexanecarboxamide (4.6 g, 73.36%) for next step.

reactant | 4,4-difluorocyclohexanecarboxylic acid | 30.49 mmol, 5 g | FC1(CCC(CC1)C(=O)O)F | C7H10F2O2
reactant | DIPEA | 91.46 mmol, 11.8 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 45.73 mmol, 17.38 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,O-dimethylhydroxylamine hydrochloride | 36.58 mmol, 3.56 g | Cl.CNOC
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 20 mL | O | H2O
product | 4,4-difluoro-N-methyl cyclohexanecarboxamide | 4.6 g, 73.36% | FC1(CCC(CC1)C(=O)NC)F | C8H13F2NO
